US06919331B2
A mixture of 1-isopropenyl-1,3-dihydro-benzoimidazol-2-one (J. Davoll, J. Chem. Soc. 1960, 308) (6.90 g, 39.6 mmol) and 10% palladium on carbon (1.0 g) in MeOH (50 mL) was placed in a Parr shaker under hydrogen (40 psi) for 2 h. The reaction mixture was filtered through celite and evaporated to give 6.97 g (100%) of 1-isopropyl-1,3-dihydro-benzoimidazol-2-one as a white solid.

reactant | 1-isopropenyl-1,3-dihydro-benzoimidazol-2-one | 39.6 mmol, 6.90 g | C(=C)(C)N1C(NC2=C1C=CC=C2)=O | C10H10N2O
catalyst | palladium on carbon | 1.0 g | [Pd] | Pd
solvent | MeOH | 50 mL | CO | CH4O
product | 1-isopropyl-1,3-dihydro-benzoimidazol-2-one | 6.97 g, 100% | C(C)(C)N1C(NC2=C1C=CC=C2)=O | C10H12N2O
